US05955480
To a solution of 4-pyridylcarbinol (50.3 g, 0.46 mol) in methylene chloride (250 mL) under a dry nitrogen atmosphere was added triethylamine (97 mL, 0.69 mol). To this mixture was added dropwise tert-butyl-dimethylsilyl chloride (83.7 g, 0.555 mol) with cooling (T 34° C.). The reaction mixture was stirred overnight at room temperature. The slurry was then filtered and the solvent removed by rotoevaporation. The residue was suspended in toluene and filtered and the solvent removed by rotoevaporation. The residue was suspended in diethyl ether and filtered and the solvent removed by rotoevaporation. The same process was repeated with hexanes to yield 4-t-butydimethylsilyloxymethylpyridine as a brown oil.

reactant | 4-pyridylcarbinol | 0.46 mol, 50.3 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | triethylamine | 0.69 mol, 97 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl-dimethylsilyl chloride | 0.555 mol, 83.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 4-t-butydimethylsilyloxymethylpyridine | [Si](C)(C)(C(C)(C)C)OCC1=CC=NC=C1 | C12H21NOSi
